US08530461B2
N-(1-{6-[3-(4-Ethoxy-phenoxy)-azetidin-1-yl]-pyridin-3-yl}-ethyl)-acetamide
Example 8.6 is prepared analogously to 8.1. (N-[1-(6-Bromo-pyridin-3-yl)-ethyl]-acetamide (I.4) and 3-(4-ethoxy-phenoxy)-azetidine are used as starting materials.

reactant | N-[1-(6-Bromo-pyridin-3-yl)-ethyl]-acetamide | BrC1=CC=C(C=N1)C(C)NC(C)=O | C9H11BrN2O
reactant | 3-(4-ethoxy-phenoxy)-azetidine | C(C)OC1=CC=C(OC2CNC2)C=C1 | C11H15NO2
product | N-(1-{6-[3-(4-Ethoxy-phenoxy)-azetidin-1-yl]-pyridin-3-yl}-ethyl)-acetamide | C(C)OC1=CC=C(OC2CN(C2)C2=CC=C(C=N2)C(C)NC(C)=O)C=C1 | C20H25N3O3
